US07144894B2
1-(t-Butyloxycarbonyl)-5-formylindole.
5-Formylindole (1.45 g, 10.0 mmol) and 4-dimethylaminopyridine (1.47 g, 12.0 mmol) were dissolved in acetonitrile (20 mL) with stirring at ambient temperature. Once dissolution was complete, the reaction mixture was cooled to −10° C. with stirring. Di-t-butylcarbonate (2.18 g, 10.0 mmol) was added in one portion. Stirring was continued for 2 h. The reaction mixture was diluted with EtOAc (50 mL) and the organic solution was washed successively with water (20 mL), a 1N HCl solution (10 mL), a saturated NaHCO3 solution (20 mL) and brine (20 mL). The organic solution was dried over MgSO4 and filtered. Solvent was removed in vacuo from the filtrate to provide a pale yellow oil (2.45 g, 100% yield): 1H NMR (CDCl3, 300 MHz): 10.1 (s, 1H), 8.31 (d, 1H, J=8), 8.12 (s, 1H), 7.87 (dd, 1H, J=8, 1), 7.70 (d, 1H, J=4), 6.71 (d, 1H, J=4), 1.71 (s, 9H).

reactant | 5-Formylindole | 10.0 mmol, 1.45 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | Di-t-butylcarbonate | 10.0 mmol, 2.18 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
catalyst | 4-dimethylaminopyridine | 12.0 mmol, 1.47 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(t-Butyloxycarbonyl)-5-formylindole | 2.45 g, 100% yield | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=O | C14H15NO3
